US08629158B2
a) 5-(2-Methoxypyridin-4-yl)-2-(trifluoromethyl)pyrimidine (CAS Registry Number 1173155-89-9) (WO 2009/089482 to Guzzo et al., which is hereby incorporated by reference in its entirety)
2-Methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (2.0 g, 8.5 mmol) and 5-chloro-2-(trifluoromethyl)pyrimidine (2.3 g, 13 mmol) were reacted according to the procedure of Example 3 (step a) to provide the title compound (1.0 g, 46%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 9.10 (s, 2H), 8.35 (d, J=5.5 Hz, 1H), 7.11 (dd, J=5.5, 1.6 Hz, 1H), 6.98 (d, J=1.6 Hz, 1H), 4.02 (s, 3H).

reactant | 2-Methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 8.5 mmol, 2.0 g | COC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO3
reactant | 5-chloro-2-(trifluoromethyl)pyrimidine | 13 mmol, 2.3 g | ClC=1C=NC(=NC1)C(F)(F)F | C5H2ClF3N2
product | 5-(2-Methoxypyridin-4-yl)-2-(trifluoromethyl)pyrimidine | 1.0 g, 46% | COC1=NC=CC(=C1)C=1C=NC(=NC1)C(F)(F)F | C11H8F3N3O
